US06608095B2
4-[5-[4-(2-Furyl)phenyl]-4-cyano-1-[4-(methylsulfonyl)phenyl]-1H-pyrazole
The title compound was prepared according to the procedure of Example 1 using 2-furanboronic acid instead of thiophen-3-boronic acid and 4-[5-[4-Bromophenyl]-4-cyano-1-[4-(methylsulfonyl)phenyl]-1H-pyrazole instead of 1-[4-(Methylsulfonyl)phenyl]-5-(4-bromophenyl)-3-trifluoromethyl-1H-pyrazole in step 2.

reactant | 2-furanboronic acid | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | 5-[4-Bromophenyl]-4-cyano-1-[4-(methylsulfonyl)phenyl]-1H-pyrazole | BrC1=CC=C(C=C1)C1=C(C=NN1C1=CC=C(C=C1)S(=O)(=O)C)C#N | C17H12BrN3O2S
product | 5-[4-(2-Furyl)phenyl]-4-cyano-1-[4-(methylsulfonyl)phenyl]-1H-pyrazole | O1C(=CC=C1)C1=CC=C(C=C1)C1=C(C=NN1C1=CC=C(C=C1)S(=O)(=O)C)C#N | C21H15N3O3S
